US04057547
To a solution of t-butyl hypochlorite (3.8 g, 0.038 m) in acetone (200 ml) which was cooled to -60°, was added the sodium salt of phthalhydrazide (4.8 g, 0.021 m). After 2.5 hours at -60° to -50°, the green reaction mixture was filtered to give a clear green solution of 1,4-phthalazinedione. 1-Methyl-2-pyridone (2.0 g, 1.8 eq., based on reacted phthalhyrazide) was added to the green solution and the resulting solution was kept at -60° for 40 minutes, allowed to warm up to 0°, and then kept at 0° for another hour. The light green solution was concentrated under reduced pressure to a volume of 10 ml. Addition of ether (30 ml) precipitated the crude product which was collected by filtration (1.8g).

reactant | t-butyl hypochlorite | 3.8 g | ClOC(C)(C)C | C4H9ClO
reactant | sodium | [Na] | Na
reactant | phthalhydrazide | 4.8 g | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1,4-phthalazinedione | C1(N=NC(C2=CC=CC=C12)=O)=O | C8H4N2O2
